US07732448B2
0.3 g of 4,6-dichloropyrimidine and 0.34 g of 3,5-dimethylpiperidine (cis/trans diastereomer=about 3/1) were mixed and left for 5 hours at room temperature. The reaction mixture was subjected to silica gel column chromatography to obtain 0.3 g of 4-chloro-6-(3,5-dimethylpiperidino)pyrimidine. This compound had the cis/trans diastereomer originated two methyls on the pyperidine ring. The ratio of the cis/trans diastereomer was about 3.1/1.

reactant | 4,6-dichloropyrimidine | 0.3 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 3,5-dimethylpiperidine | 0.34 g | CC1CNCC(C1)C | C7H15N
product | 4-chloro-6-(3,5-dimethylpiperidino)pyrimidine | 0.3 g | ClC1=NC=NC(=C1)N1CC(CC(C1)C)C | C11H16ClN3
